US08038731B2
Step 1: 2,2′-(Disulphanediyldiethane-2,1-diyl)bis(6-chloro-1H-benzo[de]-isoquinoline-1,3(2H)-dione)
9.30 g of 6-chloro-1H,3H-benzo[de]isochromene-1 ,3-dione and 4.46 g of hydrochlorided cystamine hydrochloride are suspended in 50 ml of N-methylpyrrolidone (NMP). 5.5 g of diisopropylethylamine are added and the mixture is heated with stirring at 120° C. After two hours, 50 ml of NMP are added and the mixture is kept with stirring at 120° C. for 3 hours. After cooling, the precipitated product is recovered and the filtered solution is extended by addition of 200 ml of water, and a second precipitate is recovered. The precipitates are washed with water and dried. 11.46 g of white powder are recovered. The analyses show that the product is in accordance with the expected product.

reactant | 6-chloro-1H,3H-benzo[de]isochromene-1 ,3-dione | 9.30 g | ClC=1C=CC=2C(OC(C3=CC=CC1C23)=O)=O | C12H5ClO3
reactant | cystamine hydrochloride | 4.46 g | Cl.NCCSSCCN
reactant | diisopropylethylamine | 5.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | N-methylpyrrolidone | 50 ml | CN1C(CCC1)=O | C5H9NO
reactant | NMP | 50 ml | CN1C(CCC1)=O | C5H9NO
product | 2,2′-(Disulphanediyldiethane-2,1-diyl)bis(6-chloro-1H-benzo[de]-isoquinoline-1,3(2H)-dione) | S(SCCN1C(C2=CC=CC=3C2=C(C1=O)C=CC3Cl)=O)CCN3C(C1=CC=CC=2C1=C(C3=O)C=CC2Cl)=O | C28H18Cl2N2O4S2
